US07745490B2
A solution of the 4-Benzyloxy-3-methoxy-N-(3-benzyloxy-4-methoxyphenyl)benzamide (1.05 g) in a mixture of N,N-dimethylformamide/methanol (1:5, 120 ml) was hydrogenated in presence of 10% palladium on carbon at 40 Psi at room temperature for 12 hrs. Removal of the catalyst by filtration and purification by flash chromatography over silica gel eluting with 65% ethyl acetate/hexane provided 0.26 g of 3-hydroxy-N-(3-hydroxy-4-methoxyphenyl)-4-methoxybenzamide. Yield=41.6%

reactant | 4-Benzyloxy-3-methoxy-N-(3-benzyloxy-4-methoxyphenyl)benzamide | 1.05 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NC2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)C=C1)OC | C29H27NO5
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | N,N-dimethylformamide methanol | 120 ml | CN(C=O)C.CO
catalyst | palladium on carbon | [Pd] | Pd
product | 3-hydroxy-N-(3-hydroxy-4-methoxyphenyl)-4-methoxybenzamide | 0.26 g, Yield=41.6% | OC=1C=C(C(=O)NC2=CC(=C(C=C2)OC)O)C=CC1OC | C15H15NO5
